US07265148B2
Synthesis of N-{[1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalanine
The title compound was prepared from 1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid and L-phenylalanine ethyl ester hydrochloride followed the procedure of Example 2 Step 4 as an off-white solid: 1H NMR (DMSO-d6) δ 2.90 (dd, J=13.8, 10.7 Hz, 1 H), 3.17 (dd, J=13.8, 4.3 Hz, 1H), 4.65-4.75 (m, 1 H), 5.23 (d, J=16.2 Hz, 1 H), 5.53 (d, J=16.2 Hz, 1 H), 6.21 (t, J=3.9 Hz, 2 H), 7.10-7.50 (m, 18 H), 7.57 (d, J=9.8 Hz, 1 H), 7.64 (d, J=1.9 Hz, 1 H), 9.09 (d, J=8.0 Hz, 1 H), 12.93 (br s, 1 H); MS (ESI) m/z 540 (MH+); MS (ESI) m/z 538 ([M-H]−); HRMS calcd for C35H30N3O3: 540.2288; found (ESI+): 540.2277; Anal. calcd for C35H29N3O3.0.4 H2O: C, 76.88; H, 5.49; N, 7.68. Found: C, 76.68; H, 5.24; N, 7.87.

reactant | 1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=CC=C1)C(=O)O | C26H20N2O2
reactant | L-phenylalanine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
solvent | H2O | O | H2O
product | N-{[1-benzyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalanine | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C35H29N3O3
